### PR TITLE
[Merged by Bors] - feat: `fun x ↦ x⁺` is monotone on commuting elements of a C⋆-algebra

### PR DESCRIPTION
**Pull request by j-loreaux**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Star/SelfAdjoint.lean [hunk 1]
```diff
@@ -108,6 +108,14 @@ theorem map {F R S : Type*} [Star R] [Star S] [FunLike F R S] [StarHomClass F R
     {x : R} (hx : IsSelfAdjoint x) (f : F) : IsSelfAdjoint (f x) :=
   show star (f x) = f x from map_star f x ▸ congr_arg f hx
 
+lemma of_map {F R S : Type*} [AddCancelMonoid R] [AddMonoid S]
+    [StarAddMonoid R] [StarAddMonoid S]
+    [FunLike F R S] [StarHomClass F R S] [AddMonoidHomClass F R S] (f : F)
+    {x : R} (hx : IsSelfAdjoint (f x)) (hf : Function.Injective f) :
+    IsSelfAdjoint x := by
+  have : star x + x = x + x := hf <| by simp [map_star, hx.star_eq]
+  simpa
```
Comment (ADedecker) [inline Mathlib/Algebra/Star/SelfAdjoint.lean]:
```suggestion
lemma of_map {F R S : Type*} [Star R] [Star S] [FunLike F R S] [StarHomClass F R S] (f : F)
    {x : R} (hx : IsSelfAdjoint (f x)) (hf : Function.Injective f) :
    IsSelfAdjoint x :=
  hf <| by simp [map_star, hx.star_eq]
```

File: Mathlib/Analysis/CStarAlgebra/Commutative/PosPart.lean [hunk 2]
```diff
@@ -0,0 +1,117 @@
...
+public section
+
+section ContinuousMap
+
+variable {X : Type*} [TopologicalSpace X] [CompactSpace X] (f : C(X, ℝ))
+
+/-- This lemma is perhaps a bit deceptive because the `⁺`,`⁻` that appear on the right and on the
+left come from entirely different instances. On the left-hand side, the `⁺`,`⁻` come from the
+continuous functional calculus on the C⋆-algebra `C(X, ℂ)`. On the right-hand side, the `⁺`,`⁻`
+come from the fact that `C(X, ℝ)` is lattice and an additive group. -/
```
Comment (ADedecker) [inline Mathlib/Analysis/CStarAlgebra/Commutative/PosPart.lean:27]: Wait, this is a bit worrying, no ? It means that we can't put an instance of the real cfc on `C(X, ℝ)` without creating a diamond... :sigh:

File: Mathlib/Algebra/Star/SelfAdjoint.lean [hunk 3]
```diff
@@ -108,6 +108,14 @@ theorem map {F R S : Type*} [Star R] [Star S] [FunLike F R S] [StarHomClass F R
...
+
```
Comment (ocfnash) [inline Mathlib/Algebra/Star/SelfAdjoint.lean:132]: Should we also add:
```suggestion

lemma _root_.Function.Injective.isSelfAdjoint_apply_iff
    {F R S : Type*} [AddCancelMonoid R] [AddMonoid S]
    [StarAddMonoid R] [StarAddMonoid S]
    [FunLike F R S] [StarHomClass F R S] [AddMonoidHomClass F R S] (f : F)
    {x : R} (hf : Function.Injective f) :
    IsSelfAdjoint (f x) ↔ IsSelfAdjoint x :=

```

File: Mathlib/Analysis/CStarAlgebra/Hom.lean [hunk 4]
```diff
@@ -45,6 +53,47 @@ lemma IsSelfAdjoint.map_spectrum_real {F A B : Type*} [CStarAlgebra A] [CStarAlg
...
+
+section OrderEmbedding
+
+variable {F A B : Type*}
+    [NonUnitalCStarAlgebra A] [PartialOrder A] [StarOrderedRing A]
+    [NonUnitalCStarAlgebra B] [PartialOrder B] [StarOrderedRing B]
+    [FunLike F A B] [NonUnitalAlgHomClass F ℂ A B] [StarHomClass F A B]
+
+/-- A non-unital star monomorphism between C⋆-algebras is an order embedding. -/
+def NonUnitalStarAlgHom.orderEmbedding (φ : A →⋆ₙₐ[ℂ] B) (hφ : Function.Injective φ) :
```
Comment (ocfnash) [inline Mathlib/Analysis/CStarAlgebra/Hom.lean]: You're better than me at naming but should this be:
```suggestion
def NonUnitalStarAlgHom.toOrderEmbedding (φ : A →⋆ₙₐ[ℂ] B) (hφ : Function.Injective φ) :
```

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean [hunk 5]
```diff
@@ -139,6 +140,17 @@ lemma range_cfc_nnreal
   exact cfc_cases _ a f ⟨0, by simp, by simp⟩ fun hf' ha' ↦
     ⟨f, (cfc_nonneg_iff f a hf' ha').mp (by simpa), by simp [cfc_apply f a ha' hf']⟩
 
+theorem cfc_nnreal_mem {𝕜 : Type*} [RCLike 𝕜] [ContinuousFunctionalCalculus ℝ A IsSelfAdjoint]
+    {S : Type*} [MulAction 𝕜 A] [SetLike S A]
+    [SubringClass S A] [IsScalarTower ℝ 𝕜 A]
+    [SMulMemClass S 𝕜 A] [StarMemClass S A] {s : S} [hs : IsClosed (s : Set A)]
```
Comment (ocfnash) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean:146]:
```suggestion
    [SMulMemClass S 𝕜 A] [StarMemClass S A] {s : S} [IsClosed (s : Set A)]
```

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean [hunk 6]
```diff
@@ -256,4 +268,41 @@ lemma range_cfcₙ_nnreal [NonUnitalClosedEmbeddingContinuousFunctionalCalculus
   · exact ⟨0, by simp, by simp [cfcₙ_apply_of_not_map_zero a h]⟩
   · exact ⟨0, by simp, by simp [cfcₙ_apply_of_not_predicate a h]⟩
 
+open NNReal in
+theorem cfcₙ_nnreal_mem {𝕜 : Type*} [RCLike 𝕜]
+    [NonUnitalContinuousFunctionalCalculus ℝ A IsSelfAdjoint]
+    {S : Type*} [MulAction 𝕜 A] [SetLike S A]
+    [NonUnitalSubringClass S A] [IsScalarTower ℝ 𝕜 A]
+    [SMulMemClass S 𝕜 A] [StarMemClass S A] {s : S} [hs : IsClosed (s : Set A)]
```
Comment (ocfnash) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean:276]:
```suggestion
    [SMulMemClass S 𝕜 A] [StarMemClass S A] {s : S} [IsClosed (s : Set A)]
```

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean [hunk 7]
```diff
@@ -256,4 +268,41 @@ lemma range_cfcₙ_nnreal [NonUnitalClosedEmbeddingContinuousFunctionalCalculus
...
+section StarOrderedSubtype
+
+variable {𝕜 S A : Type*} [NonUnitalRing A] [StarRing A] [TopologicalSpace A]
+    [ContinuousStar A] [Module ℝ A] [IsScalarTower ℝ A A] [SMulCommClass ℝ A A]
+    [IsTopologicalRing A] [PartialOrder A] [StarOrderedRing A] [NonnegSpectrumClass ℝ A]
+    [RCLike 𝕜] [Module 𝕜 A] [IsScalarTower ℝ 𝕜 A] [ContinuousConstSMul ℝ A]
+    [NonUnitalContinuousFunctionalCalculus ℝ A IsSelfAdjoint] [StarModule ℝ A]
+    [SetLike S A] [NonUnitalSubringClass S A] [SMulMemClass S 𝕜 A] [StarMemClass S A]
+
+instance Subtype.starOrderedRing (s : S) [hs : IsClosed (s : Set A)] : StarOrderedRing s :=
```
Comment (ocfnash) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean:295]:
```suggestion
instance Subtype.starOrderedRing (s : S) [IsClosed (s : Set A)] : StarOrderedRing s :=
```

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean [hunk 8]
```diff
@@ -256,4 +268,41 @@ lemma range_cfcₙ_nnreal [NonUnitalClosedEmbeddingContinuousFunctionalCalculus
...
+  .of_nonneg_iff' add_le_add_right fun x ↦ by
+    refine ⟨?_, ?_⟩
+    · intro (hx : 0 ≤ (x : A))
+      use ⟨cfcₙ Real.sqrt (x : A), cfcₙ_mem _ x.2⟩
+      ext
+      simp only [MulMemClass.coe_mul, StarMemClass.coe_star]
+      rw [IsSelfAdjoint.star_eq (by cfc_tac), ← cfcₙ_mul ..]
+      convert (cfcₙ_id' ℝ (x : A)).symm using 1
+      exact cfcₙ_congr fun r hr ↦ by rw [Real.mul_self_sqrt (by grind)]
```
Comment (ocfnash) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean]: I'm not sure if I prefer this but I was motivated to consider it since three stacked tactics (`exact`, `rw`, `grind`) felt a bit heavy. Take it or leave it.
```suggestion
      replace hx (r : ℝ) (hr : r ∈ quasispectrum ℝ (x : A)) : 0 ≤ r :=
        NonnegSpectrumClass.nonneg_of_mem_quasispectrum hx hr
      exact cfcₙ_congr fun r hr ↦ by rw [Real.mul_self_sqrt (hx r hr)]
```

**Review by ocfnash — APPROVED** [review]
Thanks!

Nice work: my only objection is that I couldn't think of a single meaningful suggestion for improvement during review :-)

bors d+

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean (hunk 5 above)
Comment (j-loreaux) [reply Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean:146]: I prefer to keep `hs` so that this can be easily supplied manually if necessary, as `IsClosed` is one of those "in-between" type classes; i.e., things that are necessary and useful for type class synthesis sometimes, but at other times require proofs to be supplied.

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean (hunk 6 above)
Comment (j-loreaux) [reply Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean:276]: likewise

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean (hunk 7 above)
Comment (j-loreaux) [reply Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean:295]: likewise

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean (hunk 8 above)
Comment (j-loreaux) [reply Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean]: fair, I replaced it with `exact cfcₙ_congr fun r hr ↦ by grind [Real.mul_self_sqrt]` to avoid the nested stacking.

**Comment by j-loreaux** [comment]
bors merge
